US07625902B2
To a solution of (S)-1-cyclohexylmethanesulfonyl-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one (100 mg) in CH2Cl2 (3 mL) was added cupric acetate (39 mg) and triethylamine (60 μl), followed by phenyl boronic acid (53 mg). The reaction mixture was stirred at room temperature for 16 hours. Additional phenyl boronic acid (53 mg) and triethyl amine (60 μl) was added and stirring was continued for 16 hours at room temperature. The mixture was concentrated in vacuo and the residue was purified by chromatography (SiO2, n-heptane/ethyl acetate 1:1) to give (S)-1-(cyclohexylmethanesulfonyl)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-3-phenyl-imidazolidin-2-one as a white solid. MS: 539.0 ([M+H]+)

reactant | (S)-1-cyclohexylmethanesulfonyl-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one | 100 mg | C1(CCCCC1)CS(=O)(=O)N1C(N[C@@H](C1)C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)=O | C23H34N4O4S
reactant | triethylamine | 60 μl | C(C)N(CC)CC | C6H15N
reactant | phenyl boronic acid | 53 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | phenyl boronic acid | 53 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethyl amine | 60 μl | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(cyclohexylmethanesulfonyl)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-3-phenyl-imidazolidin-2-one | C1(CCCCC1)CS(=O)(=O)N1C(N([C@@H](C1)C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)C1=CC=CC=C1)=O | C29H38N4O4S
